US09169295B2
(S)-Methyl 2-((tert-butoxycarbonyl)amino)-3-(2-((5-formylthiazol-2-yl)amino)acetamido)propanoate
Following the general procedure as described in Example 24, except using 2-((5-formylthiazol-2-yl)amino)acetic acid, 1.00 HCl (150 mg, 0.674 mmol), (S)-methyl 3-amino-2-((tert-butoxycarbonyl)amino)propanoate (see U.S. Publication No. 2007/93414 A1, 164 mg, 0.751 mmol), -1-hydroxy-7-azabenzotriazole (45 mg, 0.331 mmol), CH2C2 (5 mL), N-methylmorpholine (128 μL, 1.164 mmol), EDC (128 mg, 0.667 mmol) and stirring at room temp for 1 h, 108 mg (41.5%) of the title compound is isolated as an orange/red solid. Purification is done by BIOTAGE® Silica gel chromatography on a 20 g Thompson Single Step silica cartridge using a linear gradient from 100% CH2Cl2 to 100% EtOAc over 10 column volumes. LC/MS (Condition A): ret. T=2.54 min, (M+Na) 409.

reactant | 2-((5-formylthiazol-2-yl)amino)acetic acid | C(=O)C1=CN=C(S1)NCC(=O)O | C6H6N2O3S
reactant | HCl | 0.674 mmol, 150 mg | Cl | ClH
reactant | (S)-methyl 3-amino-2-((tert-butoxycarbonyl)amino)propanoate | NC[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C9H18N2O4
reactant | 1-hydroxy-7-azabenzotriazole | 0.331 mmol, 45 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-methylmorpholine | 1.164 mmol, 128 μL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.667 mmol, 128 mg
product | (S)-Methyl 2-((tert-butoxycarbonyl)amino)-3-(2-((5-formylthiazol-2-yl)amino)acetamido)propanoate | 108 mg, 41.5% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CNC(CNC=1SC(=CN1)C=O)=O | C15H22N4O6S
